US08877742B2
5-bromo-2-(pyrrolidin-1-yl)thiazole
4 batches of 2,5-dibromo-1,3-thiazole (250 mg, 1.029 mmol), pyrrolidine (0.089 mL, 1.081 mmol) and DIPEA (0.225 mL, 1.286 mmol) in THF (2.5 mL) were heated in a microwave at 120° C. for 15 minutes. All 4 batches were combined and evaporated to dryness. The residues were purified on silica eluting with cyclohexane and ethyl acetate (0-100%). The appropriate fractions were combined and evaporated to dryness producing the title compound (260 mg). LCMS (A): m/z (M+H)+ 233/235, C7H9BrN2S requires 232/234 (acidic).

reactant | 2,5-dibromo-1,3-thiazole | 1.029 mmol, 250 mg | BrC=1SC(=CN1)Br | C3HBr2NS
reactant | pyrrolidine | 1.081 mmol, 0.089 mL | N1CCCC1 | C4H9N
reactant | DIPEA | 1.286 mmol, 0.225 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 5-bromo-2-(pyrrolidin-1-yl)thiazole | 260 mg | BrC1=CN=C(S1)N1CCCC1 | C7H9BrN2S
